### PR TITLE
[Merged by Bors] - feat: principle of isolated zeros for meromorphic functions

### PR DESCRIPTION
**Pull request by kebekus**
Establish a principle of isolated zeros and show that the set where a meromorphic function has infinite order is clopen in the domain of meromorphy.

These theorems are used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/Meromorphic.lean [hunk 1]
```diff
@@ -310,6 +339,50 @@ lemma id {U : Set 𝕜} : MeromorphicOn id U := fun x _ ↦ .id x
...
+        · rwa [h₁w]
+        · have h₂f := (h₁t' w hw) (Subtype.coe_ne_coe.mpr h₁w)
+          simp [h₂f.2.meromorphicAt_order, h₂f.2.order_eq_zero_iff.2 h₂f.1]
+      · exact ⟨isOpen_induced h₂t', h₃t'⟩
+  · apply isOpen_iff_forall_mem_open.mpr
+    intro z hz
+    simp_rw [MeromorphicAt.order_eq_top_iff, eventually_nhdsWithin_iff, eventually_nhds_iff] at *
+    obtain ⟨t', h₁t', h₂t', h₃t'⟩ := hz
+    use Subtype.val ⁻¹' t'
+    simp [isOpen_induced h₂t', h₃t']
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Meromorphic.lean:370]: You should avoid nonterminal simps, i.e., bare `simp` like you are doing here, in the middle of the proof: if someone changes the simpset (the set of lemmas that simp appplies) in another file, then your proof could break because the state after the `simp` would change. Instead, use `simp only`, with the right set of lemmas, so that it is more robust. To do that, use `simp?` to see which lemmas your simp call uses.

Same thing below.

**Comment by kebekus** [comment]
Thanks again! Writing the code, I was totally unaware of the `filter_upwards` tactic [which David Loeffler showed me only very recently]. I will follow your suggestion, come back to you, and make sure to consistently use it in the future.

File: Mathlib/Analysis/Analytic/Meromorphic.lean [hunk 2]
```diff
@@ -35,6 +35,35 @@ lemma AnalyticAt.meromorphicAt {f : 𝕜 → E} {x : 𝕜} (hf : AnalyticAt 𝕜
...
+      tauto
+    · assumption
+  · obtain ⟨N, h₁N, h₂N, h₃N⟩ := eventually_nhds_iff.1 (eventually_nhdsWithin_iff.1 h₂)
+    right
+    use N
+    simp [h₂N, h₃N]
+    intro y h₁y h₂y
+    by_contra h
+    have A := h₁N y h₁y h₂y
+    simp [h] at A
```
[the remark this answers is not in the document]
Comment (kebekus) [reply Mathlib/Analysis/Analytic/Meromorphic.lean]: Roger. I followed your advice and simplified the proof quite dramatically.

File: Mathlib/Analysis/Analytic/Meromorphic.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/Meromorphic.lean]: Done.

**Comment by kebekus** [comment]
I implemented your suggestions. I tried to see if `filter_upwards' could be used to streamline the proof of `clopen_of_order_eq_top`, but with no success…

File: Mathlib/Analysis/Analytic/Meromorphic.lean [hunk 3]
```diff
@@ -310,6 +327,53 @@ lemma id {U : Set 𝕜} : MeromorphicOn id U := fun x _ ↦ .id x
 lemma const (e : E) {U : Set 𝕜} : MeromorphicOn (fun _ ↦ e) U :=
   fun x _ ↦ .const e x
 
+/-- The set where a meromorphic function has infinite order is clopen in its domain of meromorphy.
+-/
+theorem clopen_of_order_eq_top {U : Set 𝕜} [CompleteSpace E] (h₁f : MeromorphicOn f U) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Meromorphic.lean:332]:
```suggestion
theorem isClopen_setOf_order_eq_top {U : Set 𝕜} [CompleteSpace E] (h₁f : MeromorphicOn f U) :
```
Do we have this theorem for holomorphic functions, by the way? It would be strange to have it in the meromorphic case but not the holomorphic casr...

**Comment by kebekus** [comment]
@sgouezel Thanks. I implemented your suggestion(s) and added an analog of `isClopen_setOf_order_eq_top` for analytic functions, as requested.

**Comment by sgouezel** [comment]
The theorems on `isClopen` are nice, but I am not sure they are the most usable versions. Do you think you could add a consequence assuming that `U` is preconnected, that `x` and `y` belong to `U` and that the order at `x` is top, and saying that the order at `y` is top?

**Comment by kebekus** [comment]
@sgouezel The theorem you are asking is already written down and used extensively in [Project VD](https://github.com/kebekus/ProjectVD). It was not included here because I wanted to keep the size of the PR small. I will add it and come back to you. Thanks again, Stefan.

**Comment by kebekus** [comment]
@sgouezel I added the theorems that you requested. I allowed myself to formulate them with "…has finite order" instead of "…has infinite order" because this is what I use in the applications. Thanks again.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 4]
```diff
@@ -345,6 +345,51 @@ theorem eq_of_frequently_eq [ConnectedSpace 𝕜] (hf : AnalyticOnNhd 𝕜 f uni
...
+      obtain ⟨t', h₁t', h₂t', h₃t'⟩ := eventually_nhds_iff.1 ((eventually_nhdsWithin_iff.1 h).and
+        (h₁f z.1 z.2).eventually_analyticAt)
+      use Subtype.val ⁻¹' t'
+      constructor
+      · intro w hw
+        simp only [mem_compl_iff, mem_setOf_eq]
+        by_cases h₁w : w = z
+        · rwa [h₁w]
+        · rw [(h₁t' w hw).2.order_eq_zero_iff.2 ((h₁t' w hw).1 (Subtype.coe_ne_coe.mpr h₁w))]
+          exact ENat.zero_ne_top
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:369]:
```suggestion
theorem isClopen_setOf_order_eq_top (h₁f : AnalyticOnNhd 𝕜 f U) :
    IsClopen { u : U | (h₁f u.1 u.2).order = ⊤ } := by
  constructor
  · rw [← isOpen_compl_iff, isOpen_iff_forall_mem_open]
    intro z hz
    rcases (h₁f z.1 z.2).eventually_eq_zero_or_eventually_ne_zero with h | h
    · -- Case: f is locally zero in a punctured neighborhood of z
      rw [← (h₁f z.1 z.2).order_eq_top_iff] at h
      tauto
    · -- Case: f is locally nonzero in a punctured neighborhood of z
      obtain ⟨t', h₁t', h₂t', h₃t'⟩ := eventually_nhds_iff.1 (eventually_nhdsWithin_iff.1 h)
      use Subtype.val ⁻¹' t'
      constructor
      · intro w hw
        simp only [mem_compl_iff, mem_setOf_eq]
        by_cases h₁w : w = z
        · rwa [h₁w]
        · rw [(h₁f _ w.2).order_eq_zero_iff.2 ((h₁t' w hw) (Subtype.coe_ne_coe.mpr h₁w))]
          exact ENat.zero_ne_top
```
You shouldn't need completeness of the target space here.

File: Mathlib/Analysis/Analytic/Meromorphic.lean [hunk 5]
```diff
@@ -310,6 +327,82 @@ lemma id {U : Set 𝕜} : MeromorphicOn id U := fun x _ ↦ .id x
 lemma const (e : E) {U : Set 𝕜} : MeromorphicOn (fun _ ↦ e) U :=
   fun x _ ↦ .const e x
 
+/-- The set where a meromorphic function has infinite order is clopen in its domain of meromorphy.
+-/
+theorem isClopen_setOf_order_eq_top {U : Set 𝕜} [CompleteSpace E] (hf : MeromorphicOn f U) :
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Meromorphic.lean:332]: ditto, completeness is probably not necessary.

File: Mathlib/Analysis/Analytic/Meromorphic.lean [hunk 6]
```diff
@@ -310,6 +327,82 @@ lemma id {U : Set 𝕜} : MeromorphicOn id U := fun x _ ↦ .id x
...
+      have : u ∈ Set.univ := by trivial
+      rw [← h] at this
+      tauto
+  · intro h₂f
+    obtain ⟨v, hv⟩ := hU.nonempty
+    use ⟨v, hv⟩, h₂f ⟨v, hv⟩
+
+/-- On a preconnected set, a meromorphic function has finite order at one point if it has finite
+order at another point. -/
+theorem order_ne_top_of_order_ne_top {U : Set 𝕜} [CompleteSpace E] {x y : U}
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Meromorphic.lean:400]: Better spell it with `{x y : 𝕜} (hx : x ∈ U) (hy : y ∈ U)`, because it's the shape the assumptions or conclusions will have most of the time

File: Mathlib/Analysis/Analytic/Meromorphic.lean [hunk 7]
```diff
@@ -310,6 +327,82 @@ lemma id {U : Set 𝕜} : MeromorphicOn id U := fun x _ ↦ .id x
...
+    -- Nontrivial case: w ≠ z
+    use t' \ {z.1}, fun y h₁y _ ↦ h₁t' y (Set.mem_of_mem_diff h₁y) (Set.mem_of_mem_inter_right h₁y)
+    constructor
+    · exact h₂t'.sdiff isClosed_singleton
+    · apply (Set.mem_diff w).1
+      exact ⟨hw, Set.mem_singleton_iff.not.1 (Subtype.coe_ne_coe.2 h₁w)⟩
+
+/-- On a connected set, there exists a point where a meromorphic function `f` has finite order iff
+`f` has finite order at every point. -/
+theorem exists_order_ne_top_iff_all_order_ne_top {U : Set 𝕜} [CompleteSpace E]
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Meromorphic.lean:379]:
```suggestion
theorem exists_order_ne_top_iff_forall {U : Set 𝕜} [CompleteSpace E]
```
I'd drop the end of the lemma name, because what else could it be?

File: Mathlib/Analysis/Analytic/Meromorphic.lean (hunk 6 above)
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/Meromorphic.lean:400]:
```suggestion
theorem order_ne_top_of_isPreconnected {U : Set 𝕜} [CompleteSpace E] {x y : U}
```
I'd single out the important assumption in the lemma name.

**Review by sgouezel — COMMENTED** [review]
Thanks for adding the new lemma! I just have a minor comment on a useless completeness assumption.

File: Mathlib/Analysis/Analytic/Meromorphic.lean (hunk 6 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/Meromorphic.lean]: Done

File: Mathlib/Analysis/Analytic/Meromorphic.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/Meromorphic.lean]: Implemented to the best of my abilities. I won't be winning points for beauty & elegance, though. You will definitively want to look at this.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 8]
```diff
@@ -345,6 +345,50 @@ theorem eq_of_frequently_eq [ConnectedSpace 𝕜] (hf : AnalyticOnNhd 𝕜 f uni
 @[deprecated (since := "2024-09-26")]
 alias _root_.AnalyticOn.eq_of_frequently_eq := eq_of_frequently_eq
 
+
```
Comment (sgouezel) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:348]:
```suggestion
```

**Review by sgouezel — COMMENTED** [review]
bors d+
Thanks!
